US06589956B2
Step a: N-[2-(4-Aminophenyl)ethyl]-4-chlorobenzenesulphonamide
47.5 ml of triethylamine and then, in portions, 72 g of 4-chlorobenzenesulphonyl chloride, are added at ambient temperature to a solution of 46.5 g (340 mmol) of 4-(2-aminoethyl)aniline in a liter of dichloromethane. The mixture is then stirred for one night and subsequently filtered. The solid obtained is washed with water and dried using a dessicator to yield the expected product.

reactant | triethylamine | 47.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulphonyl chloride | 72 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 4-(2-aminoethyl)aniline | 340 mmol, 46.5 g | NCCC1=CC=C(N)C=C1 | C8H12N2
solvent | dichloromethane | a liter | ClCCl | CH2Cl2
product | N-[2-(4-Aminophenyl)ethyl]-4-chlorobenzenesulphonamide | NC1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)Cl | C14H15ClN2O2S
